US07932279B2
The mixture of 5-(2,4-bis-benzyloxy-5-bromo-phenyl)-1-(3-methoxy-propyl)-1H-tetrazole (110 mg, 0.22 mmol) and 3-trifluoromethylphenylboronic acid (83 mg, 0.44 mmol) was heated in a mixture of toluene (2 ml), ethanol (2 ml) and saturated sodium bicarbonate (2 ml) under nitrogen in the presence of a catalytic amount of Pd(PPh3)4 (20 mg) at 80° C. for 2-3 h. After the reaction was complete, the reaction mixture was extracted with ethyl acetate (15 ml×3), and the combined organics were washed with water and brine and dried over Na2SO4. After filtration and concentration, the residue was purified by flash chromatography on silica gel to provide 5-(4,6-bis-benzyloxy-3′-trifluoromethyl-biphenyl-3-yl)-1-(3-methoxy-propyl)-1H-tetrazole (90 mg, 72%). 400 MHz 1H NMR (CDCl3) δ: 7.84 (s, 1H), 7.69 (d, J=7.6 Hz, 1H), 7.58-7.48 (m, 3H), 7.39-7.22 (m, 10H), 6.77 (s, 1H), 5.11 (s, 2H), 5.10 (s, 2H), 4.33 (t, J=7.6 Hz, 2H), 3.25 (t, J=6.0 Hz, 2H), 3.16 (s, 3H), 2.10-2.09 (m, 2H); LCMS: 575 [M+H].

reactant | 5-(2,4-bis-benzyloxy-5-bromo-phenyl)-1-(3-methoxy-propyl)-1H-tetrazole | 0.22 mmol, 110 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Br)C1=NN=NN1CCCOC | C25H25BrN4O3
reactant | 3-trifluoromethylphenylboronic acid | 0.44 mmol, 83 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | 2 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4,6-bis-benzyloxy-3′-trifluoromethyl-biphenyl-3-yl)-1-(3-methoxy-propyl)-1H-tetrazole | 90 mg, 72% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F)C1=NN=NN1CCCOC | C32H29F3N4O3
